US06589984B1
An aqueous solution (6 ml) of LiOH-hydrate (64 mg) was added to a solution of methyl 6-benzyloxy-2,4-dimethyl-3,5-dioxohexanoate (430 mg) in THF (10 ml), and the mixture was stirred at room temperature for 1.5 hours. The reaction solution was neutralized with diluted hydrochloric acid, and after distilling off the volatile components under reduced pressure, extraction was performed with AcOEt at pH 3. The organic layer was dried with MgSO4 and then filtered and concentrated. Ac2O (6 ml) was added to the residue, and after stirring at room temperature for 30 minutes, pyridine (4 ml) was added and the mixture was stirred at room temperature for one hour. The reaction solution was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (n-hexane/AcOEt=3/1→12/5) to obtain 4-acetyloxy-6-(benzyloxy)methyl-3,5-dimethyl-2H-pyran-2-one.

reactant | LiOH-hydrate | 6 ml, 64 mg | O[Li].O
reactant | methyl 6-benzyloxy-2,4-dimethyl-3,5-dioxohexanoate | 430 mg | C(C1=CC=CC=C1)OCC(C(C(C(C(=O)OC)C)=O)C)=O | C16H20O5
reactant | hydrochloric acid | Cl | ClH
reactant | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-acetyloxy-6-(benzyloxy)methyl-3,5-dimethyl-2H-pyran-2-one | C(C)(=O)OC1=C(C(OC(=C1C)COCC1=CC=CC=C1)=O)C | C17H18O5
